US05194443
2-(N-(2-Benzothiazolyl)-N-benzylamino)ethanol
2-Chlorobenzothiazole (13 g) and 2-(benzylamino)ethanol (29 g) were heated together in a sealed vessel at 120° C. for 20 h. After cooling, the reaction mixture was dissolved in ethyl acetate (200 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate (3×100 ml), water (3×100 ml) and brine 100 ml), dried over anhydrous magnesium sulphate and evaporated to give the title compound (m.p. 95°-96° C.; dichloromethane/hexane).

reactant | 2-Chlorobenzothiazole | 13 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 2-(benzylamino)ethanol | 29 g | C(C1=CC=CC=C1)NCCO | C9H13NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(N-(2-Benzothiazolyl)-N-benzylamino)ethanol | S1C(=NC2=C1C=CC=C2)N(CC2=CC=CC=C2)CCO | C16H16N2OS
